US20010014679A1
A mixture of 2-fluoro-6--phenoxybenzonitrile (2.7 g, 13 mmol, Maybridge), benzamidine hydrochloride (3.0 g, 19 mmol, Aldrich) and sodium acetate (1.6 g, 19 mmol) in 60 mL of N,N-dimethylacetamide was heated at 150° C. under nitrogen for 6.5 hours. After cooling to room temperature the reaction mixture was evaporated under reduced pressure. The product was suspended in a mixture of 20 mL of ethanol and 100 mL of water, and 10 mL of concentrated ammonium hydroxide was added. The solid was collected by vacuum filtration, washed with water, dried, recrystallized twice from 60 mL of 2-propanol at 4° C., and dried at 50° C. under vacuum to give 0.5 g (12% yield) of 4-amino-2-phenyl-5-phenoxyquinazoline, m.p. 190-191° C.

reactant | 2-fluoro-6--phenoxybenzonitrile | 13 mmol, 2.7 g | FC1=C(C#N)C(=CC=C1)OC1=CC=CC=C1 | C13H8FNO
reactant | benzamidine hydrochloride | 19 mmol, 3.0 g | Cl.C(C1=CC=CC=C1)(=N)N
reactant | sodium acetate | 19 mmol, 1.6 g | C(C)(=O)[O-].[Na+]
solvent | N,N-dimethylacetamide | 60 mL | CN(C(C)=O)C | C4H9NO
product | 4-amino-2-phenyl-5-phenoxyquinazoline | 0.5 g, 12% yield | NC1=NC(=NC2=CC=CC(=C12)OC1=CC=CC=C1)C1=CC=CC=C1 | C20H15N3O
